US05665718
0.38 ml (2.2 mmol) of N-ethyldiisopropylamine was added to a suspension of 0.4 g (2.2 mmol) of morpholin-4-yl-acetic acid hydrochloride in 4 ml of DMF. 390 mg (2.4 mmol) of 1,1'- carbonyldiimidazole were added portionwise at room temperature, whereupon the solution was stirred at 50° for 30 min. and then treated at room temperature with 0.58 g (2.0 mmol) of 8-fluoro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxamidoxime. The reaction mixture was heated to 90° for 20 hrs. The solvent was removed in a vacuum, the residue was taken up in 15 ml of water and the solution was extracted several times with ethyl acetate. The combined extracts were dried over sodium sulfate, filtered and evaporated. The crude material was purified by chromatography on silica gel (methylene chloride/methanol 19:1). The solvent was removed in a vacuum, the residue was dissolved in 5 ml of acetonitrile and the solution was made acid by the addition of ethereal HCl solution. The white crystals were filtered off under suction and recrystallized from acetonitrile. There was obtained 0.5 g (54%) of 8-fluoro-5-methyl-3-(5-morpholin-4-ylmethyl-1,2,4-oxadiazol-3-yl)-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one hydrochloride (3:5) of m.p. 198°-205° (dec.).

reactant | N-ethyldiisopropylamine | 2.2 mmol, 0.38 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | morpholin-4-yl-acetic acid hydrochloride | 2.2 mmol, 0.4 g | Cl.N1(CCOCC1)CC(=O)O
reactant | 1,1'- carbonyldiimidazole | 2.4 mmol, 390 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 8-fluoro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxamidoxime | 2.0 mmol, 0.58 g | FC=1C=CC2=C(C(N(CC=3N2C=NC3C(N)=NO)C)=O)C1 | C13H12FN5O2
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 8-fluoro-5-methyl-3-(5-morpholin-4-ylmethyl-1,2,4-oxadiazol-3-yl)-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one hydrochloride | 0.5 g, 54% | Cl.FC=1C=CC2=C(C(N(CC=3N2C=NC3C3=NOC(=N3)CN3CCOCC3)C)=O)C1 | InChI=1S/C19H19FN6O3.ClH/c1-24-9-15-17(18-22-16(29-23-18)10-25-4-6-28-7-5-25)21-11-26(15)14-3-2-12(20)8-13(14)19(24)27;/h2-3,8,11H,4-7,9-10H2,1H3;1H
